US07173151B2
tert-Butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)but-2-enoate
1.3.11 g of tert-butyl 4-[cis-3-(tert-butyl-diphenylsilanyloxy)cyclohexyl]-2-ethylbut-2-enoate are dissolved in 20 ml of tetrahydrofuran, and 15.7 ml of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran are added. The mixture is stirred at 60° C. for 2 hours. The reaction mixture is concentrated under reduced pressure and purified on silica gel using the mobile phase n-heptane:ethyl acetate=30:1=>ethyl acetate. This gives 1.65 g of tert-butyl 2-ethyl4-(cis-3-hydroxycyclohexyl]but-2-enoate as an oil. C16H28O3 (268.40), Rf(n-heptane:ethyl acetate=5:1)=0.07.

reactant | tert-butyl 4-[cis-3-(tert-butyl-diphenylsilanyloxy)cyclohexyl]-2-ethylbut-2-enoate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)CC=C(C(=O)OC(C)(C)C)CC | C32H46O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-Butyl 2-ethyl-4-(cis-3-hydroxycyclohexyl)but-2-enoate | C(C)C(C(=O)OC(C)(C)C)=CC[C@@H]1C[C@@H](CCC1)O | C16H28O3
